US07351709B2
To a stirred solution of (3R)-3-ethyl-7-fluoro-4-(4-methoxybenzoyl)-1-methyl-3,4 dihydroquinoxalin-2(1H)-one (0.19 g, 0.55 mmol) and tetrabutylammonium iodide (0.41 g, 1.1 mmol) in methylene chloride (5 mL), under nitrogen, at −78° C., was added a 1.0 M solution of boron trichloride in methylene chloride (2.8 mL, 2.8 mmol). Stirring was continued at −78° C. for 5 minutes, and the reaction was warmed to 0° C. where it was stirred for 5 h. The reaction was quenched by the addition of ice water, and the resulting mixture was stirred for 10 min. The layers were separated. The organic layer was washed with water and brine and dried over magnesium sulfate. Evaporation of the solvent and purification by eluting it through a short plug of silica gel with 75% hexane/EtOAc gave 0.16 g (88%) of (3R)-3-ethyl-7-fluoro-4-(4-hydroxybenzoyl)-1-methyl-3,4-dihydroquinoxalin-2(1H)-one. [α]D25=−300° (c=0.009 G/ML, DMSO); MS (ESI) m/z 329 ([M+H]+); MS (ESI) m/z 327 ([M−H]−); HRMS: calcd for C18H17FN2O3, 328.1223; found (ESI+), 329.13036; Anal. Calcd for C18H17FN2O3: C, 65.85; H, 5.22; N, 8.53. Found: C, 65.73; H, 5.46; N, 8.28.

reactant | (3R)-3-ethyl-7-fluoro-4-(4-methoxybenzoyl)-1-methyl-3,4 dihydroquinoxalin-2(1H)-one | 0.55 mmol, 0.19 g | C(C)[C@@H]1C(N(C2=CC(=CC=C2N1C(C1=CC=C(C=C1)OC)=O)F)C)=O | C19H19FN2O3
reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
catalyst | tetrabutylammonium iodide | 1.1 mmol, 0.41 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2.8 mmol, 2.8 mL | C(Cl)Cl | CH2Cl2
product | (3R)-3-ethyl-7-fluoro-4-(4-hydroxybenzoyl)-1-methyl-3,4-dihydroquinoxalin-2(1H)-one | 0.16 g, 88% | C(C)[C@@H]1C(N(C2=CC(=CC=C2N1C(C1=CC=C(C=C1)O)=O)F)C)=O | C18H17FN2O3
